US07897609B2
A suspension of 7-bromo-4-chloro-3-nitro[1,5]naphthyridine (54.42 g, 188.6 mmol) in chloroform (820 mL) was cooled to 0° C., and triethylamine (105 mL, 755 mmol) was added. A solution of 1-(aminomethyl)cyclopentanol (28.25 g, 245.2 mmol) in chloroform (272 mL) was added slowly over a period of 15 minutes. The reaction was allowed to warm to room temperature and stirred for 30 minutes. The solution was washed sequentially with water (500 mL) and saturated aqueous sodium bicarbonate (750 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 1-{[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]methyl}cyclopentanol.

reactant | 7-bromo-4-chloro-3-nitro[1,5]naphthyridine | 188.6 mmol, 54.42 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C8H3BrClN3O2
reactant | triethylamine | 755 mmol, 105 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(aminomethyl)cyclopentanol | 245.2 mmol, 28.25 g | NCC1(CCCC1)O | C6H13NO
solvent | chloroform | 820 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 272 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]methyl}cyclopentanol | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC1(CCCC1)O | C14H15BrN4O3
